US04426324
N-Benzyloxycarbonyl-γ-t-butyl-L-glutamyl-L-asparagine t-butyl ester
N-Benzyloxycarbonyl-γ-t-butyl-L-glutamate (50.7 g, 0.15 mol) in 300 ml freshly distilled THF was placed in a 2-liter 3-neck round bottom flask fitted with a thermometer, mechanical stirrer and dropping funnel and immersed in a dry ice-alcohol bath at -15°. N-Methylmorpholine (16.8 ml, 0.15 mol) was added dropwise. The temperature was maintained at -15° and isobutyl chloroformate (19.7 ml, 0.15 mol) was added dropwise over a 2-minute period. The reaction mixture was stirred an additional 2 minutes at -15° and a precooled solution of L-asparagine t-butyl ester (25.6 g, 0.136 mol) dissolved in 270 ml THF and 30 ml DMF was added dropwise over a 4-minute period while the temperature was maintained at -15°. The reaction mixture was stirred at -15° for 30 minutes and at 25° for 2.5 hours, evaporated in vacuo and the residue dissolved in EtOAc and washed with 10% NaHCO3 (2×300 ml), saturated NaCl solution (30 ml), 1 M citric acid (2×300 ml) and saturated NaCl solution (300 ml). The organic layer was dried over MgSO4, filtered and evaporated in vacuo to yield a thick oil. The oil was crystallized from EtOAc-ether to yield 34.5 g. Trituration of the mother liquid with ether gave an additional 31.1 g. Total yield 65.6 g (95%); mp 139° dec; Rf 0.22 (CHCl3 :CH3OH:AcOH:80-2-0.4). The analytical sample was prepared by recrystallization from methanol-ether; mp 142°-144.5°; [α]D25 -19.14° (c 1, CH3OH). Anal. calcd. for C25H37N3O8 (507.6): C, 59.16; H, 7.35; N, 8.28. Found: C, 59.24; H, 7.34; N, 8.40.

reactant | N-Benzyloxycarbonyl-γ-t-butyl-L-glutamate | 0.15 mol, 50.7 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C(=O)[O-])C(C)(C)C)C(=O)[O-]
reactant | N-Methylmorpholine | 0.15 mol, 16.8 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.15 mol, 19.7 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | L-asparagine t-butyl ester | 0.136 mol, 25.6 g | C(C)(C)(C)OC([C@@H](N)CC(N)=O)=O | C8H16N2O3
solvent | THF | 270 ml | C1CCOC1 | C4H8O
solvent | CH3OH | CO | CH4O
solvent | AcOH | CC(=O)O | C2H4O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-Benzyloxycarbonyl-γ-t-butyl-L-glutamyl-L-asparagine t-butyl ester | C(C)(C)(C)OC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C(O)=O)C(C)(C)C)=O)CC(N)=O)=O | C25H37N3O8
